US05294612
A mixture of sodium metal (1.4 g, 0.06 mol) and ethanol (10 ml) was stirred until all of the sodium metal had dissolved and the solvent was removed in vacuo. The residue was placed under argon, and DMF (50 ml), followed by 3-chloro-4-cyanopyridine (6.95 g, 0.05 mol) were added at 5° C. The mixture was warmed to room temperature and stirred for 24 hours. The solvent was removed in vacuo and the residue was treated with dichloromethane and filtered. The filtrate was removed in vacuo, the residue was treated with water and a solid was collected by filtration to afford 4.6 g (62%) of 3-ethoxy-4-cyanopyridine as a tan solid, m.p. 56°-57° C.

reactant | sodium | 0.06 mol, 1.4 g | [Na] | Na
reactant | 3-chloro-4-cyanopyridine | 0.05 mol, 6.95 g | ClC=1C=NC=CC1C#N | C6H3ClN2
reactant | ethanol | 10 ml | C(C)O | C2H6O
product | 3-ethoxy-4-cyanopyridine | 4.6 g, 62% | C(C)OC=1C=NC=CC1C#N | C8H8N2O
